US07662771B2
5-{4-[2-(2,2,2-Trifluoro-acetylamino)-phenyl]-oxazol-2-yl}-pentanoic acid methyl ester
Dissolve 5-[4-(2-amino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (1.4 g, 5.1 mmol) in Et2O (25 mL) and add TEA (0.71 mL, 5.1 mmol). Cool the mixture in an ice bath, add trifluoroacetic anhydride (0.72 mL, 5.1 mmol) and allow the mixture to stir at 0° C. until reaction is complete. Quench the mixture with aq NaHCO3 and extract with EtOAc. Dry the combined extracts over Na2SO4 and concentrate. Chromatograph the residue over silica gel (CH2Cl2) to allow for isolation of 5-{4-[2-(2,2,2-Trifluoro-acetylamino)-phenyl]-oxazol-2-yl}-pentanoic acid methyl ester (1.69 g, 89%). MS (ES): (M+1)+ 371.1, 372.3 m/z.

reactant | 5-[4-(2-amino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 5.1 mmol, 1.4 g | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)N)=O | C15H18N2O3
reactant | trifluoroacetic anhydride | 5.1 mmol, 0.72 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | 5-{4-[2-(2,2,2-Trifluoro-acetylamino)-phenyl]-oxazol-2-yl}-pentanoic acid methyl ester | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)NC(C(F)(F)F)=O)=O | C17H17F3N2O4
